US08937150B2
6,6′-[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis{5-fluoro-2-[(2S)-pyrrolidin-2-yl]-1H-benzimidazole} (ACD Name v12)
To a solution of di-tert-butyl (2S,2′R)-2,2′-{[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate (44 mg, 0.04 mmol) in dioxane (1 mL) was added 4 M HCl/dioxane (1 mL, 4.0 mmol) and the solution was stirred at 50° C. for 2 hours. The cooled solution was concentrated and placed under vacuum for 1 hour to provide the crude title compound that was used without purification.

reactant | di-tert-butyl (2S,2′R)-2,2′-{[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis(6-fluoro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole-5,2-diyl)}dipyrrolidine-1-carboxylate | 0.04 mmol, 44 mg | C(C)(C)(C)C1=CC=C(C=C1)N1[C@H](CC[C@@H]1C1=CC2=C(N(C(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F)C1=CC2=C(N(C(=N2)[C@@H]2N(CCC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1F | C58H85F2N7O6Si2
reactant | HCl dioxane | 4.0 mmol, 4 M, 1 mL | Cl.O1CCOCC1
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6,6′-[(2R,5R)-1-(4-tert-butylphenyl)pyrrolidine-2,5-diyl]bis{5-fluoro-2-[(2S)-pyrrolidin-2-yl]-1H-benzimidazole} | C(C)(C)(C)C1=CC=C(C=C1)N1[C@H](CC[C@@H]1C=1C(=CC2=C(NC(=N2)[C@H]2NCCC2)C1)F)C=1C(=CC2=C(NC(=N2)[C@H]2NCCC2)C1)F | C36H41F2N7
